US08168658B2
Step A: Methyl-6-[1-(4-methylpiperazin-1-yl)-2-(2-naphthylamino)-2-oxoethyl]nicotinate.
Methyl 6-formylnicotinate (50.0 mg, 0.303 mmol), acetic acid (19.0 μL, 0.333 mmol), N-methylpiperizine (40.4 μL, 0.364 mmol), and 2-napthylisocyanide (51.0 mg, 0.333 mmol) were dissolved in 100 μL of TFE. The solution was allowed to stir for 2 h then purified by reverse phase HPLC to give the desired product MS cal'd 419 (MH+), exp 419 (MH+).

reactant | Methyl 6-formylnicotinate | 0.303 mmol, 50.0 mg | C(=O)C1=NC=C(C(=O)OC)C=C1 | C8H7NO3
reactant | acetic acid | 0.333 mmol, 19.0 μL | C(C)(=O)O | C2H4O2
reactant | N-methylpiperizine | 0.364 mmol, 40.4 μL | CN1CCNCC1 | C5H12N2
reactant | 2-napthylisocyanide | 0.333 mmol, 51.0 mg | C1=C(C=CC2=CC=CC=C12)[N+]#[C-] | C11H7N
product | Methyl-6-[1-(4-methylpiperazin-1-yl)-2-(2-naphthylamino)-2-oxoethyl]nicotinate | COC(C1=CN=C(C=C1)C(C(=O)NC1=CC2=CC=CC=C2C=C1)N1CCN(CC1)C)=O | C24H26N4O3
